US06043248
Isoquinoline-3-carbonitrile (1.76 g, 11.4 mmole) is dissolved in 10 ml tetrahydrofuran in an oven dried 100 ml two neck round bottom flask under nitrogen. The solution is cooled to 0° C., is diluted with 5 ml diethyl ether, and is treated with methyl magnesium bromide in ether (5.7 ml, 17.1 mmole). The reaction is warmed to reflux for one hour, is cooled to 0° C., and is quenched with 15 ml 6 M hydrochloric acid. The reaction mixture is warmed to 50° C. for one hour, is cooled, and is poured into 75 ml 2N sodium hydroxide. The mixture is extracted with 3×50 ml ethyl acetate and the combined organics are dried over potassium carbonate. The dried organics are concentrated in vacuo to a crude orange solid. The crude material is chromatographed over 60 g silica gel (230-400 mesh), eluting with 20% acetone/hexane, while collecting 22 ml fractions. Fractions 7-11 are combined and concentrated to provide 1.7 g (87%) of 3-acetyl-isoquinoline.

reactant | Isoquinoline-3-carbonitrile | 11.4 mmole, 1.76 g | C1=NC(=CC2=CC=CC=C12)C#N | C10H6N2
reactant | methyl magnesium bromide | C[Mg]Br
reactant | ether | 17.1 mmole, 5.7 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-acetyl-isoquinoline | 1.7 g, 87% | C(C)(=O)C=1N=CC2=CC=CC=C2C1 | C11H9NO
